US06075143
N4 -(Benzoyl)cytosine
Cytosine (5.55 g) is suspended in dry pyridine (100 ml). Using a syringe, benzoyl chloride (6.4 ml) is then added dropwise. A virtually clear solution is formed from which a precipitate separates out after approximately 5 minutes. Stirring is continued for approximately 2 hours at room temperature, methanol (100 ml) is then added, and the mixture is concentrated in vacuo. The residue is stirred with isopropanol, filtered, washed with a small amount of methanol and diethyl ether, and dried in vacuo.

reactant | Cytosine | 5.55 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | benzoyl chloride | 6.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanol | 100 ml | CO | CH4O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N4 -(Benzoyl)cytosine | C(C1=CC=CC=C1)(=O)NC1=NC(NC=C1)=O | C11H9N3O2
